US08629271B2
b) Ethyl 2,2-dimethyl-7-(tetrahydro-2H-pyran-2-yloxy)heptanoate
A solution of diisopropylamine (1.78 mL) in dry THF (10 mL) at 0° C. under nitrogen was treated dropwise with n-butyl lithium (2.5M in hexanes, 5.09 mL) to generate a pale yellow solution which was stirred at 0° C. for 30 minutes then cooled to −78° C. and treated dropwise with ethyl isobutyrate (1.55 mL). The solution was stirred at −78° C. for 45 minutes then a solution of 2-(5-bromopentyloxy)tetrahydro-2H-pyran (example 285, step a) (3.20 g) in dry THF (1 mL) was added dropwise. The reaction mixture was stirred at −78° C. for 10 minutes then was allowed to warn to room temperature overnight. The reaction mixture was cooled to 0° C. then treated with saturated aqueous ammonium chloride solution (3 mL) and extracted with ethyl acetate. The aqueous phase was extracted with ethyl acetate (×2) and the combined organic phase was washed with water, saturated aqueous sodium bicarbonate solution and brine then dried over sodium sulfate, filtered and evaporated. Purification was by silica gel chromatography eluting with 0-5% ethyl acetate in cyclohexane to afford the subtitled compound as colourless liquid. Yield 2.22 g.

reactant | diisopropylamine | 1.78 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.5M, 5.09 mL | C(CCC)[Li]
reactant | ethyl isobutyrate | 1.55 mL | C(C(C)C)(=O)OCC | C6H12O2
reactant | 2-(5-bromopentyloxy)tetrahydro-2H-pyran | BrCCCCCOC1OCCCC1 | C10H19BrO2
reactant | ammonium chloride | 3 mL | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | Ethyl 2,2-dimethyl-7-(tetrahydro-2H-pyran-2-yloxy)heptanoate | CC(C(=O)OCC)(CCCCCOC1OCCCC1)C | C16H30O4
